US05753708
1-desoxy-1-methylamino-D-glucitol 4-hydroxybutyrate
500 ml (565 g, 6.56 mol) of gamma-butyrolactone are placed in 1.8 l of water. 1.28 kg (6.56 mol) of methylglucamine are added to the solution obtained. The mixture is then heated to 60° C. for 8 hours. The pH value falls over this period from an initial value of 11 to 7.5. The volume of the solution obtained is then adjusted to 3.4 l by the addition of water (approximately 200 ml) in order to achieve a concentration of 2 g of gamma-hydroxybutyric acid in 10 ml of solution.

reactant | gamma-butyrolactone | 6.56 mol, 500 ml, 565 g | C1(CCCO1)=O | C4H6O2
reactant | methylglucamine | 6.56 mol, 1.28 kg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | gamma-hydroxybutyric acid | OCCCC(=O)O | C4H8O3
solvent | water | 1.8 l | O | H2O
solvent | water | approximately 200 ml | O | H2O
product | 1-desoxy-1-methylamino-D-glucitol 4-hydroxybutyrate | OC(C(=O)O[C@@H]([C@@H]([C@H](CNC)O)O)[C@H](O)CO)CC | C11H23NO7
